US06794389B2
cis-2-(2-Amino-6-methoxyquinazolin-4-yl)amino-N-tert-butoxycarbonylcyclohexylamine
A solution of 300 mg of cis-N-tert-butoxycarbonyl-2-(2-ethoxycarbonylamino-6-methoxyquinazolin-4-yl)aminocyclohexylamine in 10 mL of methanol was combined with a 50 mg of potassium hydroxide powder, and stirred at room temperature for 3 hours. The reaction solution was neutralized by addition of a saturated aqueous solution of ammonium chloride, and then extracted with chloroform and dried. After the solvent was distilled off, the residue was purified by column chromatography on silica gel (chloroform:methanol=10:1) to obtain 250 mg of the desirable compound.

reactant | cis-N-tert-butoxycarbonyl-2-(2-ethoxycarbonylamino-6-methoxyquinazolin-4-yl)aminocyclohexylamine | 300 mg | C(C)(C)(C)OC(=O)N[C@H]1[C@H](CCCC1)NC1=NC(=NC2=CC=C(C=C12)OC)NC(=O)OCC | C23H33N5O5
reactant | potassium hydroxide | 50 mg | [OH-].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 10 mL | CO | CH4O
product | cis-2-(2-Amino-6-methoxyquinazolin-4-yl)amino-N-tert-butoxycarbonylcyclohexylamine | 250 mg | NC1=NC2=CC=C(C=C2C(=N1)N[C@@H]1[C@@H](CCCC1)NC(=O)OC(C)(C)C)OC | C20H29N5O3
